Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
scheduled admission for chemotherapy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ yr old male with hx of HIV on HAART, CAD w/ 
hx
STEMI ___ s/p PCI, HTN as well as CNS lymphoma dx ___ after
presenting with balance disturbance and blurry/double vision. He
underwent craniotomy and brain biopsy c/w CNS lymphoma and was
started on induction methotrexate starting ___.  Per patient
has had marked improvement in vision soon after ___ cycle and
balance also significantly improved.  He has been walking up to 
3
miles, no falls, only occasionally has to steady himself. States
he has intermittent double vision in R lower corner of vision,
for instance describes he might see "two hands", now occurs only
if stressed or sleep deprived.  His last opthal eval did not 
show
evidence of lymphoma on eye exam and he was given techniques for
trying to focus his eyes. Last MRI brain ___ showed ongoing
resolution of R cerebellar enhancement.

He is here today for next high-dose MTX, this is second since
spacing out to every 2-months. States he gets some nausea with
MTX otherwise tolerates well. No recent fever/chills, HA, neck
pain, numbness, weakness, cough, SOB, ab pain, N/V/D. Is eating
well.
Of note he was seen in ED ___ with episode of chest pain. 
Given
cardiac hx he had EKG, serial trops that were negative and CTA
chest that did not show PE.  He does report that pain comes on
after eating esp if laying down soon after as he often eats and
then goes to bed.  Some burning quality also some epigastric
pain, none for few days. Chest pain is not exertional, he is
walking as above and not limited by dyspnea. No further
intervention was recommended but he has not yet followed up with
cardiology.
 
Past Medical History:
His neurological problem began at the end of ___ when
he experienced imbalance and blurry vision.  Initially, his gait
imbalance was intermittent, mostly occuring after eating and
lasting for a couple of hours.  However, it progressed to a
constant fashion.  He also developed blurry vision and he had to
close one eye in order to see clearly.  On ___, his
imbalance was severe enough that his brother, ___, took him to ___.  He had a head
CT that showed a mass at the brainstem.  He was referred to see
Dr. ___ on ___ who admitted him to the
Neurosurgery Service.  A gadolinium-enhanced head MRI on 
___
showed a homogeneously enhancing mass at the lateral recess on
the right side of the fourth ventricle.  He then underwent a
stereotaxic biopsy of the mass by Dr. ___ on
___.  After biopsy he remains neurologically stable.  He
then started high-dose methotrexate on ___.

(1) stereotaxic biopsy of the mass by Dr. ___ on
___,
(2) an echocardiogram that was performed on ___ showing
apical hypokinesis but his ejection fraction remained at 55%,
(3) started high-dose methotrexate on ___ and had 5
induction cycles so far,
(4) started re-induction high-dose methtorexate on ___ and
had 3 cycles,
(5) started maintenance high-dose methotrexate on ___ at
monthly interval and had 4 cycles, and
(6) started every 2-month maintenance high-dose methotrexate on
___ and had 1 cycle.

PAST MEDICAL HISTORY:
He has coronary artery disease, myocardial infarction, HIV
disease, pancreatitis, hypertension, hypercholesterolemia and
gastric ulcer.  He also had right-sided ophthalmic shingles as
well as shingles in V3 distribution in ___.  He does not have
diabetes or COPD.

He is HIV positive from heterosexual contact.  He was on HAART
therapy from ___ to ___, and subsequently stopped from ___ to
___, and then resumed in ___.  His viral load is undetectable
when it was last checked at ___ in
___.  He sees Dr. ___ and ___ there.  He is on Truvada and 
Kaletra.

His cardiac history is significant for a myocardial infarction
with inferior ST elevation that occurred in ___.  
He
subsequently received a cardiac stent in the large obtuse
marginal branch.  He also had a chronically occluded LAD
collateralized from the right coronary artery.  An exercise
stress test in ___ showed a fixed moderate myocardial
perfusion defect in the anteroapical wall with no evidence of
reversible ischemia and echocardiogram.  His ejection fraction
was 55% with severe apical hypokinesis.  He had a repeat
echocardiogram on ___ that showed apical hypokinesis but 
his
ejection fraction remained at 55%.
 
Social History:
___
Family History:
His parents are alive; his mother has
pre-diabetes while his father has glaucoma and prostate cancer. 
He has 6 brothers, one of the, has kidney problem.  He has 3
daughters and they are all healthy.
 
Physical Exam:
VITAL SIGNS: afebrile, OVSS
I/O 3L/5L, weight down 1lb
HEENT:  MMM, no OP lesions, 
Neck: supple, no JV
Lymph: no cervical, supraclavicular, axillary or inguinal
adenopathy
CV:  RR, NL S1S2 no S3S4 or MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT:  warm well perfused, no edema
SKIN:  No rashes or skin breakdown
NEURO:  alert and oriented x 4, ___, EOMI, no nystagmus, face
symmetric, no tongue deviation, full hand grip, shoulder shrug
and bicep flexion, full toe dorsiflexion and hip flexion against
resistance bilateral, sensation intact to light touch, no 
clonus,
no dysmetria with FTN/HTS testing, visual fields intact to
confrontation, gait normal and able to tandem walk in a straight
line, Romberg negative 
 
Pertinent Results:
DAY OF DISCHARGE:

Source: ___
___  AGap=14
3.9321.1

Ca: 9.0 Mg: 2.4 P: 3.6
ALT: 58 AP: 71 Tbili: 0.5 Alb:
AST: 39

mthotrx: 0.14

wbc 5.0hgb 14.3plt 194
 
Brief Hospital Course:
Mr ___ is a ___ yr old male with hx HIV on HAART, hx CAD w/
STEMI s/p PCI on plavix as well as CNS lymphoma now in remission
on HD-MTX.

(1) CNS Lymphoma:  Presented with imbalance and double vision,
symptoms now much improved. In ongoing remission w/ resolution 
of
R cerebellar enhancement. 
- here now for cycle 6 maintenance high-dose methotrexate 
(8g/m2)
now given at 2-month interval, dose completed 0400 ___
-  was continued on hydration and urine alkalinization with 
sodium bicarb to
maintain urine pH >8
- started leucovorin rescue 24 hrs after MTX dose completed.
- pt will continue oral leucovorin and sodium bicarb for 24 hrs 
on discharge as MTX level 0.14 and continues to clear

2) Hx HIV - Pt on HAART therapy thru ___ 
___. Last CD4 here 157 ___.   Viral load undetectable as 
of ___ per Dr ___.  Cont truvada and 
lopinavir-ritonavir. Is on prophy bactrim

(3) Hx Herpes Zoster Eruption at Left S1-2 Dermatomes:  He is on 
prophylactic acyclovir.

(4) Coronary Artery Disease:  hx STEMI s/p PCI to large obtuse 
marginal.Currently no active cardiac symptoms. maintained on ASA 
and plavix.  Did have recent nonexertional chest pain most c/w 
GERD. Most recent EF 55% ___. 
- cont metoprolol, plavix and statin, held ASA w/ MTX and 
resumed on discharge
- he has cardiology f/u in ___ GERD - changed PPI to rantidine w/ MTX,add tums or maalox prn
acute symptoms

6) Hx HTN - holding lisinopril while on MTX, BP was stable
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO BID 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. LOPERamide 2 mg PO QID:PRN diarrhea 
10. Aspirin 81 mg PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 

 
Discharge Medications:
1. Acyclovir 800 mg PO BID 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. LOPERamide 2 mg PO QID:PRN diarrhea 
7. Lopinavir-Ritonavir 2 TAB PO BID 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
10. Leucovorin Calcium 40 mg PO Q6H 
take 4 doses (for one day) 
RX *leucovorin calcium 10 mg 4 tablet(s) by mouth every 6 hours 
Disp #*16 Tablet Refills:*0
11. Sodium Bicarbonate 1300 mg PO Q6H 
take every 6 hours for 4 doses (for one day) 
RX *sodium bicarbonate 650 mg 2 tablet(s) by mouth every 6 hours 
Disp #*8 Tablet Refills:*0
12. Aspirin 81 mg PO DAILY 
13. Lisinopril 5 mg PO DAILY 
14. Pantoprazole 40 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma

 
Discharge Condition:
Condition - stable
Mental status - alert and oriented
Ambulatory status - independent

 
Discharge Instructions:
Mr ___ it was a pleasure caring for you during your stay at 
___.  You were admitted for your next cycle of high dose 
methotrexate which you tolerated well. Your methotrexate level 
was 0.14 so you will take oral leucovorin and sodium bicarbonate 
while the methotrexate continues to clear over the next day
 
Followup Instructions:
___